Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Wellbutrin / sertraline
 
Attending: ___.
 
Chief Complaint:
GI Bleed
 
Major Surgical or Invasive Procedure:
Endoscopy
___ embolization
 
History of Present Illness:
Ms. ___ is a ___ old woman with a past medical history 
of
metabolic syndrome, COPD, HTN, HLD, breast cancer (T1N0M0,
ER+/PR+, HER2-) s/p lumpectomy and adjuvant XRT, and more
recently dx undifferentiated myeloproliferative disorder,
atypical CML versus CNL.
She was recently admitted to ___ FICU and OMED after episode 
of
diarrhea and rash felt to be medication related possibly
allopurinol. She developed dysuria and presented to ___ w/
leukocytosis 100K. She was transferred to ___ ED then FICU for
sepsis requiring vasopressors. Smear reviewed by heme did not
show any blasts thus hyperleukocytosis felt to be a leukamoid
response to infection rather than transformation. Hydroxyurea 
was
stopped due to concern for drug rash and she started jakafi ___. 

Regarding sepsis she was treated with cipro/flagyl for 
Klebsiella
UTI (Cx+ ___ at BI remained negative. BP stabilized and
she was transferred to floor but course then complicated by
melena requiring 5u pRBCs s/p EGD ___ showing duodenal ulcer
treated w/ thermal therapy. started on PPI. DC Hct 27
She also had hypoxia felt to be volume overload which improved
with diuresis and ___ w/ Cr peak a 4.4 felt be prerenal from
sepsis, lisinopril was held and Cr improved. 
Since discharge, still feeling fatigue but had normal BMs x2
days. ___ at midnight had 1 episode of melena, for which she
presented to ___ overnight ___. Labs there notable for
Hct 25.1 and Cr 0.9. had another episode melena today at 3am. 
She
was discharged w/ plan to present to ___ ED.
Initial VS ___ ED  13:12 0 99.1 96 114/66 17 96% RA 
___ ED pt received pantoprazole IV and Ativan PO
She denies any abdominal pain, fever/chills, lightheadedness,
weakness, DOE, chest pain. Only taking clear liquids since she
left ___ as instructed, prior to that was eating regular
meals. No nausea, vomiting. no other bleeding.
 
Past Medical History:
PAST ONCOLOGIC HISTORY: per OMR
She was found to have leukocytosis to 38,000 at a pre-operative 
check for a retinal defect ___ ___. Repeat testing 
performed on ___ revealed a similar WBC with immature 
myeloid forms, promyelocytes, myelocytes, metamyelocytes, bands 
and hypersegmented neutrophils. ___ comparison, a CBC from ___ 
showed a WBC of 10,000 (no diff) with normal hemoglobin and 
platelet count. On an MRCP ___ ___, she was incidentally 
found to have splenomegaly to 15 cm. Given this constellation 
there was a concern for CP-CML and she therefore underwent 
testing for BCR-ABL and JAK2 mutation on ___ - 
both of which returned NEGATIVE. She underwent bone marrow 
aspiration and biopsy on ___ which showed a markedly 
hypercellular marrow with myeloid predominant trilineage 
hematopoiesis and increased megakaryocytes suspicious for a 
myeloid neoplasm. Mild reticulin staining. IPT showed a 
nonspecific T cell dominant lymphoid profile. MDS-FISH negative. 
Normal female karyotype. Mutational testing for SETBP1 and CSF3R 
were negative. 
Due to suspected atypical CML vs. CNL and the increased WBC to
80,000 ___ ___, she was started on hydroxyurea 500 mg 
QD and allopurinol on ___, with a goal to bridge 
her to ruxolitinib treatment. Notably, she had a significant 
response with WBC reduction from 80,000 to 40,000 within one 
week. 
Past Medical History:
Myeloproliferative disorder 
Hypertension
Diabetes mellitus type 2
COPD
Hypothyroidism
Hypercholesterolemia
Depression
___
breast cancer s/p lumpectomy and adjuvant radiation 
 
Social History:
___
Family History:
Mother died at ___ from cardiac disease. Father died at ___ from 
CAD, had h/o CVA at ___. Sister died of CAD ___ ___. No 
significant family history of malignancy.
 
Physical Exam:
VS: 97.5, 124/69, 86, 18, 95% RA  
 GEN: NAD  
 HEENT: MMM. Neck supple.  
 Cards: RR S1/S2 normal. 
 Pulm: CTAB no crackles or wheezes  
 Abd: Soft, NT, no rebound/guarding  
 Extremities: no edema.  
 Skin: no rashes or bruising  
 Neuro: AOx3, no focal deficits.
 
Pertinent Results:
ADMISSION LABS: 
===============
___ 03:40PM BLOOD WBC-57.1* RBC-2.38* Hgb-7.2* Hct-23.7* 
MCV-100* MCH-30.3 MCHC-30.4* RDW-19.4* RDWSD-67.7* Plt ___
___ 03:40PM BLOOD Neuts-72* Bands-5 Lymphs-7* Monos-2* 
Eos-3 Baso-0 ___ Metas-4* Myelos-5* Promyel-2* Other-0 
AbsNeut-43.97* AbsLymp-4.00* AbsMono-1.14* AbsEos-1.71* 
AbsBaso-0.00*
___ 03:40PM BLOOD Hypochr-2+ Anisocy-3+ Poiklo-3+ 
Macrocy-OCCASIONAL Microcy-3+ Polychr-1+ Schisto-1+ 
Stipple-OCCASIONAL Tear Dr-2+ How-Jol-OCCASIONAL
___ 03:40PM BLOOD Glucose-91 UreaN-23* Creat-0.9 Na-143 
K-4.3 Cl-109* HCO3-27 AnGap-11
___ 04:34PM BLOOD Type-ART Rates-/___ Tidal V-550 PEEP-5 
FiO2-40 pO2-87 pCO2-37 pH-7.39 calTCO2-23 Base XS--1 
Intubat-INTUBATED

MICROBIOLOGY:
=============
Blood cultures: ___ x 2 no growth 
Urine culture ___ no growth 
Sputum Culture
                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      >25 PMNs and <10 epithelial cells/100X field. 
      2+   ___ per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS AND CLUSTERS. 
      SMEAR REVIEWED; RESULTS CONFIRMED. 
 
___ 6:04 am SEROLOGY/BLOOD      Source: Line-picc. 

                            **FINAL REPORT ___

   HELICOBACTER PYLORI ANTIBODY TEST (Final ___: 
      NEGATIVE BY EIA. 
           (Reference Range-Negative). 

DISCHARGE LABS: 
===============
___ 07:00AM BLOOD WBC-64.8* RBC-3.15* Hgb-9.5* Hct-30.4* 
MCV-97 MCH-30.2 MCHC-31.3* RDW-19.9* RDWSD-67.1* Plt ___
___ 07:00AM BLOOD Glucose-80 UreaN-5* Creat-0.7 Na-144 
K-4.1 Cl-107 HCO3-27 AnGap-14
___ 07:00AM BLOOD Mg-1.9

IMAGING: 
========
Portable CXR ___: 
1. The tip of the ETT is seen 2.8 cm above the carina.  No 
pneumothorax 
2. Increased left lower lung opacities are concerning for 
aspiration. 

Portable CXR ___: 
ET tube tip is 5 cm above the carinal.  NG tube tip is ___ the 
stomach.  There is interval improvement of left basal 
atelectasis but still there is a persistent left perihilar 
opacities that might represent residua of aspiration or 
developing pneumonia.  Reassessment of the patient ___ ___ hr is 
recommended. 
  
Mild vascular enlargement is not excluded. 

Portable CXR ___:
Left perihilar consolidation is unchanged.  Retrocardiac 
atelectasis have 
improved.  Vascular congestion is stable.  There is no evident 
pneumothorax.  Small left pleural effusion is unchanged. 
Cardiomediastinal contours are stable.  Left PICC tip is ___ the 
lower SVC 
  
Mesenteric arteriogram ___:
Successful coil and gel foam embolization of the right 
gastroepiploic artery and the gastroduodenal artery, with good 
angiographic result, showing embolization of multiple small 
vessels that were seen coursing to the area of the known 
duodenal ulcer. 

Portable CXR ___
Cardiomediastinal contours are unchanged.  Left perihilar and 
left lower lobe consolidations are unchanged.  Mild vascular 
congestion has improved.  Left PICC tip is ___ the lower SVC.  
There is no evident pneumothorax.  Small left effusion is 
unchanged. 

 
Brief Hospital Course:
___ yr old female with undifferentiated myeloproliferative 
disorder (?atypical CML, extensive testing inc BCR-ABL, Jak2 
negative) who was admitted with recurrent upper GI bleed ___ 
setting of recent duodenal ulcer with an aspiration
event requiring intubation.  
 
Recurrent Upper GI bleed from Duodenal Ulcer
- The patient first underwent and EGD with endoclip and thermal 
therapy but continued to bleed to then underwent a 
gastroepiploic embolization by ___. She did require multiple 
blood transfusions. Her hemoglobin then stabilized. She will 
continue on a PPI. H.pylori was checked and was negative.
 
Respiratory failure
- The patient did have respiratory failure requiring intubation 
during her EGD and was then transferred to the ICU. She was 
treated for an aspiration pneumonia with vanc, cefepime, and 
flagyl. She was later extubated and transferred to the floor. 
Flagyl was stopped. She then completed a course of vanc and 
cefepime on ___.

Myeloproliferative disorder
- Her home ___ was stopped given bleeding after discussion 
was held with her primary oncologist. Prior to discharge she was 
re-started on hydrea which she was been on previously per her 
primary oncologist. She will follow up with oncology as an 
outpatient.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Escitalopram Oxalate 5 mg PO DAILY 
3. Levothyroxine Sodium 75 mcg PO DAILY 
4. Simvastatin 10 mg PO 3X/WEEK (___) 
5. Tiotropium Bromide 1 CAP IH DAILY 
6. Pantoprazole 40 mg PO Q12H 
7. Vitamin D ___ UNIT PO DAILY 
8. Probiotic Blend (___) 2 million 
cell-50 mg oral DAILY 
9. Multivitamins 1 TAB PO DAILY 
10. MetFORMIN XR (Glucophage XR) 500 mg PO DAILY 
11. Calcium 500 + D (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -200 unit oral QHS 
12. ValACYclovir 1000 mg PO Q12H 
13. Fish Oil (Omega 3) 1000 mg PO HOME DOSE 
14. Jakafi (ruxolitinib) 10 mg oral daily 

 
Discharge Medications:
1. Escitalopram Oxalate 5 mg PO DAILY 
2. Levothyroxine Sodium 75 mcg PO DAILY 
3. Simvastatin 10 mg PO 3X/WEEK (___) 
4. Tiotropium Bromide 1 CAP IH DAILY 
5. Calcium 500 + D (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -200 unit oral QHS 
6. Fish Oil (Omega 3) 1000 mg PO HOME DOSE 
7. MetFORMIN XR (Glucophage XR) 500 mg PO DAILY 
8. Multivitamins 1 TAB PO DAILY 
9. Pantoprazole 40 mg PO Q12H 
10. Probiotic Blend (___) 2 million 
cell-50 mg oral DAILY 
11. ValACYclovir 1000 mg PO Q12H 
12. Vitamin D ___ UNIT PO DAILY 
13. Hydroxyurea 500 mg PO DAILY 
RX *hydroxyurea 500 mg 1 capsule(s) by mouth Daily Disp #*30 
Capsule Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Leukemia
Pneumonia
GI Bleed/Ulcer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with a GI bleed from the ulcer that was seen 
on your last admission. You had an EGD but it continued to bleed 
so you then had an embolization done by ___ which stopped the 
bleeding. You also developed a pneumonia which you were treated 
with antibiotics with. Your jakafi was stopped and you were 
restarted on hydrea.
 
Followup Instructions:
___